US08008298B2
6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid
To a solution of 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester (110 mg, 0.22 mmol) in 1.0 mL of THF was added a 500 uL of 5.0 M aqueous NaOH. Heated to 60° C. for 3 days. Diluted with THF, made acidic with 1.0 M HCl and partitioned into methylene chloride. Dried the organic phase over Na2SO4, filtered, and concentrated. Collect 107 mg of 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid sufficiently pure for the next step.

reactant | 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester | 0.22 mmol, 110 mg | C(C)OC(=O)C1=C(N(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)COCC[Si](C)(C)C)C | C25H35N3O6Si
reactant | NaOH | 5.0 M, 500 uL | [OH-].[Na+]
reactant | HCl | 1.0 M | Cl | ClH
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid | CC1=C(C=2C(=NC=C(N2)C2=CC(=C(C(=C2)OC)OC)OC)N1COCC[Si](C)(C)C)C(=O)O | C23H31N3O6Si
